US06852728B2
I. Synthesis of the Benzilic Acid Derivatives of General Formula 3
25.0 g (0.095 mol) of 4,4′-difluorobenzilic acid is added to freshly prepared sodium ethoxide solution containing 2.17 g (0.095 mol) of sodium and 200 ml of ethanol at 20° C. and stirred for 3 hours. The solution is evaporated to dryness, the residue is dissolved in DMF, 22.57 g (0.16 mol) of methyl iodide is added dropwise at 20° C., and the mixture is stirred for 24 hours. It is worked up and purified analogously to compound 12b. Yield: 21.06 g (80% of theory).

reactant | 4,4′-difluorobenzilic acid | 0.095 mol, 25.0 g | FC1=CC=C(C(C(=O)O)(O)C2=CC=C(C=C2)F)C=C1 | C14H10F2O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.095 mol, 2.17 g | [Na] | Na
reactant | methyl iodide | 0.16 mol, 22.57 g | CI | CH3I
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Benzilic Acid | C(C(O)(C1=CC=CC=C1)C1=CC=CC=C1)(=O)O | C14H12O3
